US07858621B2
To a suspension of N-methoxy-2-(3-methoxy-prop-1-ynyl)-N-methyl-6-trifluoromethyl-nicotinamide (247 mg, 0.817 mmol) in 5% Pd/C (50 mg) was added CH3OH (6 ml). The mixture was purged three times with hydrogen gas (50 psi) and shaken for 2 hours at room temperature. The reaction mixture was filtered over a pad of Celite and concentrated under reduced pressure. The crude residue was chromatographed to yield the N-methoxy-2-(3-methoxy-propyl)-N-methyl-6-trifluoromethyl-nicotinamide (160 mg, 64%).

reactant | N-methoxy-2-(3-methoxy-prop-1-ynyl)-N-methyl-6-trifluoromethyl-nicotinamide | 0.817 mmol, 247 mg | CON(C(C1=C(N=C(C=C1)C(F)(F)F)C#CCOC)=O)C | C13H13F3N2O3
reactant | CH3OH | 6 ml | CO | CH4O
solvent | Pd/C | 50 mg | [Pd] | Pd
product | N-methoxy-2-(3-methoxy-propyl)-N-methyl-6-trifluoromethyl-nicotinamide | 160 mg, 64% | CON(C(C1=C(N=C(C=C1)C(F)(F)F)CCCOC)=O)C | C13H17F3N2O3
